US07429665B2
4-(Quinolin-2-ylmethoxy)-benzamide
To a solution of 2-Chloromethyl-quinoline (1.57 g) and 4-Hydroxy-benzamide (995 mg) in dimethyl formamide (20 mL) was added cesium carbonate (7.3 g) and the reaction mixture heated at 80° C. for 18 h. The reaction mixture was poured into water and extracted with chloroform, dried magnesium sulfate, filtered and concentrated to provided the title compound (909 mg). MS: (M+H -m/z=279.3).

reactant | 2-Chloromethyl-quinoline | 1.57 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | 4-Hydroxy-benzamide | 995 mg | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | cesium carbonate | 7.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(Quinolin-2-ylmethoxy)-benzamide | 909 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C(=O)N)C=C1 | C17H14N2O2
